US06797823B1
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]aniline
Sodium hydride (60 wt %, 5.80 g) was added to dimethyl sulfoxide (40 ml). The mixture was stirred at 60° C. for 30 min and was then cooled to room temperature. Next, 4-amino-3-chlorophenol hydrochloride (13.05 g) was added thereto. The mixture was stirred at room temperature for 10 min. 4-Chloro-6,7-dimethoxyquinazoline (8.14 g), which is a chloroquinazoline derivative synthesized by a conventional method as described, for example, in J. Am. Chem. Soc., 68, 1299 (1946) or J. Am. Chem. Soc., 68, 1305 (1946), was then added thereto. The mixture was stirred at 110° C. for 30 min. Water was then added to the reaction solution, followed by extraction with chloroform. The chloroform layer was then washed with a saturated aqueous sodium hydrogencarbonate solution and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and methanol was added to the residue to prepare a suspension. The precipitated crystal was collected by suction filtration to give 9.13 g (yield 76%) of the title compound.

reactant | Sodium hydride | 5.80 g | [H-].[Na+]
reactant | 4-amino-3-chlorophenol hydrochloride | 13.05 g | Cl.NC1=C(C=C(C=C1)O)Cl
reactant | 4-Chloro-6,7-dimethoxyquinazoline | 8.14 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | chloroquinazoline | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
solvent | Water | O | H2O
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]aniline | 9.13 g, yield 76% | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
